US06455550B1
4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-azidobutyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester was prepared from 1-[4-(azido)butyl]cyclopentane carboxylic acid and of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester hydrochloride salt using the procedure described in example 46 to give a 99% yield of a white solid, mp 195-199° C. HR MS (C27H31Cl2N5O4): Obs mass, 560.1833. Calcd mass, 560.1831 (M+H).

reactant | 1-[4-(azido)butyl]cyclopentane carboxylic acid | N(=[N+]=[N-])CCCCC1(CCCC1)C(=O)O | C10H17N3O2
reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester hydrochloride salt | Cl.COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-azidobutyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1(CCCC1)CCCCN=[N+]=[N-])CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C27H31Cl2N5O4
